US09290460B2
8-Hydroxy-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione
A solution of BBr3 (4N in DCM, 10 mL, 40 mmol) was added dropwise to a mixture of 8-methoxy-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione (60 mg, 0.13 mmol) in DCM (25 mL) at −70° C. The mixture was warmed to room temperature and stirred at r.t overnight. After cooled at ice-bath, 10 mL MeOH was added dropwise and then NH4Cl (a.q.) was added. The mixture was extracted by DCM (50 mL×2), the combined organic layer was dried to give crude product which was purified by TLC (DCM/MeOH=20:1) to give the target product (7.64 mg, 13.1% yield). 1H NMR (DMSO-d6): 11.64 (s, 1H), 10.34 (s, 1H), 8.36 (d, J=4.8 Hz, 2H), 7.51 (dd, J=6.8 and 2.6 Hz, 1H), 7.39-7.34 (m, 1H), 7.27-7.23 (m, 3H), 7.10-7.03 (m, 2H), 6.65 (t, J=4.7 Hz, 1H), 5.63 (s, 2H), 3.85-3.53 (m, 8H). MS: m/z 459.4 [M+H]+.

reactant | BBr3 | 40 mmol, 4N, 10 mL | B(Br)(Br)Br | BBr3
reactant | 8-methoxy-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione | 0.13 mmol, 60 mg | COC=1C=CC=C2C(NC(N(C12)CC1=CC(=CC=C1)C(=O)N1CCN(CC1)C1=NC=CC=N1)=O)=O | C25H24N6O4
reactant | MeOH | 10 mL | CO | CH4O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 8-Hydroxy-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione | 7.64 mg, 13.1% yield | OC=1C=CC=C2C(NC(N(C12)CC1=CC(=CC=C1)C(=O)N1CCN(CC1)C1=NC=CC=N1)=O)=O | C24H22N6O4
